US05891909
b) 3-[5-Methyl-3-(3-pyridinylsulfonyloxy)phenoxy]propanol
A solution of triphenylphosphine (1.52 g, 0.0058 mol), 5-methyl-3-(3-pyridinylsulfonyloxy)phenol (1.54 g, 0.0058 mol), as prepared in the preceding step, and 1,3-propanediol (0.42 mL, 0.0058 mol) in anhydrous tetrahydrofuran (50 mL) was treated with diethyl azodicarboxylate (0.92 mL, 0.0058 mol) and allowed to stir at ambient temperature for 3 days. The tetrahydrofuran was evaporated, and the solid residue was treated with hexane. Solvent was decanted and the solid was treated with dichloromethane and diluted with hexane to produce a crystalline solid which was collected by filtration. The filtrate was evaporated to dryness and partitioned between water and diethyl ether. The aqueous layer was separated and extracted with diethyl ether (2×50 mL). The diethyl ether extracts were combined, washed with brine, and dried over anhydrous sodium sulfate. The diethyl ether extract was evaporated to a gum which was purified further by silica gel chromatography using 10% ethyl acetate/90% dichloromethane, followed by 15% ethyl acetate/85% dichloromethane, 20% ethyl acetate/80% dichloromethane, and finally 25% ethyl acetate/75% dichloromethane. The appropriate fractions were combined and evaporated to a gum (1.3 g). 1H-NMR (300 MHz, CDCl3) δ 9.03 (d, 1H), 8.89 (dd, 1H), 8.14 (m, 1H), 6.64 (s, 1H), 6.42 (s, 1H), 6.37 (t, 1H), 4.00 (t, 2H), 3.81 (q, 2H), 2.25 (s, 3H), and 1.99 (pentet, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C15H17NO5S: 278.0 (M-C3H7O+Na). Found: 278.9.

reactant | triphenylphosphine | 0.0058 mol, 1.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-methyl-3-(3-pyridinylsulfonyloxy)phenol | 0.0058 mol, 1.54 g | CC=1C=C(C=C(C1)O)OS(=O)(=O)C=1C=NC=CC1 | C12H11NO4S
reactant | 1,3-propanediol | 0.0058 mol, 0.42 mL | C(CCO)O | C3H8O2
reactant | diethyl azodicarboxylate | 0.0058 mol, 0.92 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-[5-Methyl-3-(3-pyridinylsulfonyloxy)phenoxy]propanol | CC=1C=C(C=C(OCCCO)C1)OS(=O)(=O)C=1C=NC=CC1 | C15H17NO5S
